US09404132B2
<Measurement Method of Lysine Decarboxylase Activity>
To 200 mM of sodium phosphate buffer solution (pH7.0) containing 200 mM of L-lysine monohydrochloride and 0.15 mM of pyridoxal phosphate (manufactured by Hiroshima Wako Ltd.), a bacterial cell suspension or a treated bacterial cell suspension was added, thereby preparing a total mixture of 0.2 mL, and the mixture was allowed to react at 37° C. for 6 minutes. To the reaction liquid, 1 mL of hydrochloric acid (0.2M) was added, thereby terminating the reaction. The reaction terminated liquid was diluted with water appropriately, and the produced 1,5-pentamethylenediamine was determined by HPLC.

reactant | sodium phosphate | 200 mM, pH7.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | L-lysine monohydrochloride | 200 mM | Cl.N[C@@H](CCCCN)C(=O)O
reactant | pyridoxal phosphate | 0.15 mM | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | hydrochloric acid | 0.2M, 1 mL | Cl | ClH
product | Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
